US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-METHOXYPHENYL]BUTANAMIDE
Example 22 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methoxyphenyl}butanamide according to the procedures described in Scheme 8: ESMS m/e: 528.4 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methoxyphenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1OC)NC(CCC)=O | C19H31N3O2
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-METHOXYPHENYL]BUTANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1OC)NC(CCC)=O)C1=CC=CC=C1 | C33H41N3O3
